US04939267
to a solution of 9.8 g of 4-cyanophenylethyl cyclopropyl carbinol in 140 ml of ether was added 4.24 g of lithium bromide and 3 ml of 2,4,6-collidine. The mixture was cooled to -60° C. and 9.8 g of phosphrous tribromide was added over a five minute period. The reaction mixture was allowed to warm to 0° C., kept at that temperature for two hours and then allowed to warm to 18° C. Collidine (18 ml) was added, and after 15 minutes of stirring, the mixture was poured into 200 ml of water and 100 ml of ether. The ether extracts were washed with dilute aqueous sulfuric acid and water, dried over anhydrous magnesium sulfate and concentrated to a volume of 150 ml. Zinc bromide (11.6 g) was then added with cooling, and the mixture was stirred at room temperature for 29 hours. The ether solution was washed with water, dried and concentrated to give 12.5 g of 4-(6-bromohex-3-enyl)benzonitrile as a yellow oil.

reactant | 4-cyanophenylethyl cyclopropyl carbinol | 9.8 g | C(#N)C1=CC=C(C=C1)CCC(O)C1CC1 | C13H15NO
reactant | lithium bromide | 4.24 g | [Br-].[Li+]
reactant | 2,4,6-collidine | 3 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | Collidine | 18 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | water | 200 ml | O | H2O
solvent | ether | 140 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-(6-bromohex-3-enyl)benzonitrile | 12.5 g | BrCCC=CCCC1=CC=C(C#N)C=C1 | C13H14BrN
